US04731368
Step B: Preparation of 2-Sulfamoylthieno[3,2-c]pyridin-4(5H)-one
A solution of 2-sulfamoyl-4-chlorothieno[3,2-c]pyridine (0.87 g, 3.5 mmol) in 10 N sodium hydroxide (1.8 ml) diluted with water (7 ml) was heated at 100° C. for 5-10 hours. After cooling the reaction and acidification with concentrated hydrochloric acid, the precipitated product was collected by filtration. Recrystallization from hot dimethyl sulfoxide by dilution with ethanol gives 0.53 g (66% yield) of product; m.p. 299°-301° C.

reactant | 2-sulfamoyl-4-chlorothieno[3,2-c]pyridine | 3.5 mmol, 0.87 g | S(N)(=O)(=O)C1=CC=2C(=NC=CC2S1)Cl | C7H5ClN2O2S2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 10 N, 1.8 ml | [OH-].[Na+]
solvent | water | 7 ml | O | H2O
product | 2-Sulfamoylthieno[3,2-c]pyridin-4(5H)-one | 0.53 g, 66% yield | S(N)(=O)(=O)C1=CC=2C(NC=CC2S1)=O | C7H6N2O3S2
